US06235731B1
2) Synthesis of N-[3-(hexahydro-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride
To a solution of 4250 mg (9.29 mM) of N-[3-(4-tert-butoxycarbonyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in 100 ml of ethanol was added 3.8 ml (46.44 mM) of 12N-hydrochloric acid, and the mixture was stirred at room temperature for 1 hour. The resulting precipitate was recovered by filtration and rinsed with small amounts of ethanol and ether to provide the title compound. Yield 4020 mg (92.8%).

reactant | N-[3-(4-tert-butoxycarbonyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 9.29 mM, 4250 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H31N5O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[3-(hexahydro-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride | Cl.Cl.Cl.N1(CCNCCC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C18H23N5OS.3ClH/c24-18(20-7-3-10-22-9-2-6-19-8-11-22)15-12-14-13-21-16-4-1-5-17(25-15)23(14)16;;;/h1,4-5,12-13,19H,2-3,6-11H2,(H,20,24);3*1H
